US04006009
Preparation of Tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)-3-ethyl-6-propionyloxy-2(1H)-pyrimidinone
Tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)-3-ethyl-6-hydroxy-2(1H)-pyrimidinone (0.1 mole), propionic anhydride (0.11 mole), toluenesulfonic acid (0.05 gram) and benzene (100 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The reaction mixture is heated on a steam bath with stirring for a period of about 2 hours. After this time the reaction mixture is cooled to room temperature and is stripped of solvent under reduced pressure leaving a residue. The residue is recrystallized to yield the desired product tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)-3-ethyl-6-propionlyoxy-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)-3-ethyl-6-hydroxy-2(1H)-pyrimidinone | 0.1 mole | COC1=NN=C(S1)N1C(N(CCC1O)CC)=O | C9H14N4O3S
reactant | propionic anhydride | 0.11 mole | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | toluenesulfonic acid | 0.05 gram | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | Tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)-3-ethyl-6-propionyloxy-2(1H)-pyrimidinone | COC1=NN=C(S1)N1C(N(CCC1OC(CC)=O)CC)=O | C12H18N4O4S
